GROUP 21 - LAB 1 TCFE

* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

Va 4 5 5.11422921556
R1 4 3 1048.99828982
R2 2 3 2055.5682231
R3 3 7 3060.18802573
R4 7 5 4168.97961659
R5 7 1 3073.95007732
R6 5 8 2042.8100493
R7 6 0 1037.56256625
Id 0 1 0.00101155034907
Gb 1 2 (3,7) 0.00733855517177
Hc 7 0 Ve 8258.18000183
Ve 8 6 0

*Hc 7 0 Vaux 8258.18000183
*Va 4 5 5.11422921556
*R6 5 8 2042.8100493
*R7 6 0 1037.56256625
*R3 3 7 3060.18802573
*R5 7 1 3073.95007732
*R2 2 3 2055.5682231
*R1 4 3 1048.99828982
*R4 7 5 4168.97961659
*Gb 1 2 (3,7) 0.00733855517177
*Id 0 1 0.00101155034907
*Vaux 8 6 0

.model group 21

.control

op

echo "*******************"
echo RESULTADOS
echo "*******************"

print all

quit
.endc

.end

